US04131611
A solution of 59.5 g of 3,4-dichlorophenylacetic acid in 500 ml of absolute ethanol is saturated with anhydrous hydrogen chloride and then heated at reflux for 2 hours. The mixture is concentrated under reduced pressure to 200 ml, diluted with 200 ml of water and neutralized with concentrated ammonium hydroxide. This aqueous mixture is extracted 3 times with chloroform. Concentration and decolorization of the chloroform extracts gives ethyl 3,4-dichlorophenylacetate as a yellow oil.

reactant | 3,4-dichlorophenylacetic acid | 59.5 g | ClC=1C=C(C=CC1Cl)CC(=O)O | C8H6Cl2O2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 500 ml | C(C)O | C2H6O
product | ethyl 3,4-dichlorophenylacetate | ClC=1C=C(C=CC1Cl)CC(=O)OCC | C10H10Cl2O2
